* File: /home/eng/s/sxv240035/cad/gf65/tutorial/MUX21/HSPICE/MUX21.pex.sp.pex
* Created: Tue Dec  3 11:01:01 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX21%NET11 1 2 3 4 6 12 13 14 16 18 20 36 37
r72 33 34 25
r73 30 33 0.848132
r74 30 36 30
r75 27 30 0.388606
r76 27 36 10
r77 24 27 1.38894
r78 24 37 10
r79 20 24 0.661602
r80 20 21 25
r81 14 34 0.407895
r82 13 21 0.815789
r83 11 18 36.8926
r84 11 12 84.3405
r85 6 16 26.6446
r86 5 6 45.0909
r87 4 14 4.3283
r88 3 12 3.46412
r89 3 4 139.782
r90 2 13 4.3283
r91 1 5 3.46412
r92 1 2 98.995
.ends

.subckt PM_MUX21%VSS 1 6 9 13 19 23 27 29
r91 13 29 10
r92 11 23 0.00816527
r93 11 13 0.951113
r94 10 19 0.0378803
r95 9 23 0.0378803
r96 9 10 1.43148
r97 6 27 10
r98 4 19 0.00816527
r99 4 6 0.951113
r100 1 19 15
.ends

.subckt PM_MUX21%NET18 1 2 4 6 9 11 13 15 28 30
c69 15 0 3.59093e-20
c70 13 0 1.74809e-19
c71 11 0 1.74809e-19
r72 25 28 30
r73 22 25 0.376265
r74 22 28 10
r75 19 22 1.29341
r76 19 30 10
r77 15 19 0.714904
r78 15 16 25
r79 9 16 0.584906
r80 6 13 36.8926
r81 5 11 26.6446
r82 5 6 87.7223
r83 4 11 26.6446
r84 3 4 52.6744
r85 2 9 4.41296
r86 1 3 3.46412
r87 1 2 73.3752
.ends

.subckt PM_MUX21%OUT 2 12 14 15
r28 14 15 10
r29 11 12 10
r30 9 11 0.382378
r31 9 12 30
r32 5 11 0.636659
r33 5 14 0.677765
r34 2 5 1.7
.ends

.subckt PM_MUX21%VDD 1 6 12 16 25 29 32 34
r75 20 34 30
r76 16 20 0.367355
r77 16 34 10
r78 14 29 0.00426319
r79 14 20 1.36197
r80 13 25 0.0429052
r81 12 29 0.0429052
r82 12 13 1.22897
r83 10 32 30
r84 6 10 0.367355
r85 6 32 10
r86 4 25 0.00426319
r87 4 10 1.36197
r88 1 25 15
.ends

.subckt PM_MUX21%S 4 6 8 9 10 12 14 15 16 20 22 24 26 28 30 38 39
c93 24 0 1.54476e-19
c94 22 0 1.54476e-19
c95 15 0 4.10675e-20
r96 38 39 25
r97 35 38 4.18701
r98 30 39 1.7
r99 19 28 26.6446
r100 19 20 30.5388
r101 15 20 3.46412
r102 15 16 34.5355
r103 13 26 36.8926
r104 13 14 36.7901
r105 12 26 36.8926
r106 11 16 3.46412
r107 11 12 50.8298
r108 9 14 3.46412
r109 9 10 89.2595
r110 8 10 3.46412
r111 7 24 36.8926
r112 7 8 36.7901
r113 6 24 36.8926
r114 5 35 3.83544
r115 5 6 31.6661
r116 4 35 3.83544
r117 3 22 26.6446
r118 3 4 36.1752
.ends

.subckt PM_MUX21%A 4 6 10 12 14 22 23
c52 22 0 3.59093e-20
c53 12 0 1.54476e-19
c54 10 0 1.54476e-19
r55 22 23 25
r56 19 22 4.18701
r57 14 23 1.7
r58 6 12 36.8926
r59 5 19 3.83544
r60 5 6 31.6661
r61 4 19 3.83544
r62 3 10 26.6446
r63 3 4 36.1752
.ends

.subckt PM_MUX21%B 4 6 10 12 14 22 23
c51 23 0 4.10675e-20
c52 12 0 1.74809e-19
c53 10 0 1.74809e-19
r54 22 23 25
r55 19 22 4.18701
r56 14 23 1.7
r57 6 12 36.8926
r58 5 19 3.83544
r59 5 6 31.6661
r60 4 19 3.83544
r61 3 10 26.6446
r62 3 4 36.1752
.ends

