* File: /home/eng/s/sxv240035/cad/gf65/tutorial/NAND2/HSPICE/NAND2.pex.sp.pex
* Created: Thu Dec  5 19:35:18 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%VSS 1 6 12 18
c26 6 0 1.08665e-19
r27 6 18 10
r28 4 12 0.0199415
r29 4 6 0.988031
r30 1 12 30
.ends

.subckt PM_NAND2%OUT 3 9 10 13 17 20 26 29 30 33 35 37 38 39
c62 10 0 1.08665e-19
c63 9 0 3.52656e-20
r64 33 35 1.7
r65 28 33 0.0515171
r66 28 29 0.0811569
r67 26 33 0.110105
r68 26 27 0.0811569
r69 23 38 30
r70 20 23 0.388606
r71 20 38 10
r72 18 30 0.0363272
r73 18 20 0.359461
r74 17 30 0.0363272
r75 17 29 0.0874363
r76 13 27 0.682003
r77 13 39 10
r78 9 30 0.00944082
r79 9 10 1.13299
r80 6 37 30
r81 3 6 0.388606
r82 3 37 10
r83 1 10 0.0479332
r84 1 3 0.359461
.ends

.subckt PM_NAND2%VDD 1 6 15 20
r38 10 20 30
r39 6 10 0.388606
r40 6 20 10
r41 4 15 0.0185406
r42 4 10 1.4359
r43 1 15 30
.ends

.subckt PM_NAND2%B 4 6 10 12 14 17 23
c43 17 0 3.52656e-20
c44 12 0 1.94277e-19
c45 6 0 2.70174e-19
r46 20 23 4.21922
r47 17 20 25
r48 14 17 1.7
r49 6 12 36.8926
r50 5 23 3.83544
r51 5 6 32.1785
r52 4 23 3.83544
r53 3 10 26.6446
r54 3 4 53.8017
.ends

.subckt PM_NAND2%A 4 6 10 12 15 17 23
c50 17 0 9.2625e-20
c51 15 0 1.77549e-19
c52 12 0 1.94277e-19
r53 20 23 4.21922
r54 15 20 25
r55 15 17 1.7
r56 6 12 36.8926
r57 5 23 3.83544
r58 5 6 32.1785
r59 4 23 3.83544
r60 3 10 26.6446
r61 3 4 53.8017
.ends

