* File: /home/eng/s/sxv240035/cad/gf65/tutorial/NAND3/HSPICE/NAND3.pex.sp.pex
* Created: Thu Dec  5 19:40:55 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3%VSS 1 6 12 18
r32 6 18 10
r33 4 12 0.0199415
r34 4 6 0.988031
r35 1 12 30
.ends

.subckt PM_NAND3%OUT 3 9 10 13 17 20 26 29 30 32 35 37 39 40
c69 9 0 3.82044e-20
r70 32 35 1.7
r71 28 35 0.0515171
r72 28 29 0.0805173
r73 26 35 0.110105
r74 26 27 0.0805173
r75 23 39 30
r76 20 23 0.388606
r77 20 39 10
r78 18 30 0.0363272
r79 18 20 0.388606
r80 17 30 0.0363272
r81 17 29 0.0874363
r82 13 27 0.682003
r83 13 40 10
r84 9 30 0.00944082
r85 9 10 1.24595
r86 6 37 30
r87 3 6 0.388606
r88 3 37 10
r89 1 10 0.0479332
r90 1 3 0.388606
.ends

.subckt PM_NAND3%VDD 1 6 12 16 25 29 32 33
r55 20 33 30
r56 16 20 0.388606
r57 16 33 10
r58 14 29 0.0185406
r59 14 20 1.40675
r60 13 25 0.0268516
r61 12 29 0.0268516
r62 12 13 0.757782
r63 10 32 30
r64 6 10 0.388606
r65 6 32 10
r66 4 25 0.0185406
r67 4 10 1.40675
r68 1 25 15
.ends

.subckt PM_NAND3%C 4 6 10 12 14 17 23
c42 12 0 1.54476e-19
c43 6 0 2.67492e-19
r44 20 23 4.21922
r45 17 20 25
r46 14 17 1.7
r47 6 12 36.8926
r48 5 23 3.83544
r49 5 6 35.2529
r50 4 23 3.83544
r51 3 10 26.6446
r52 3 4 53.8017
.ends

.subckt PM_NAND3%B 4 6 10 12 14 17 23
c50 17 0 2.11044e-19
c51 14 0 9.46516e-20
c52 12 0 3.08952e-19
c53 6 0 2.67492e-19
r54 20 23 4.21922
r55 17 20 25
r56 14 17 1.7
r57 6 12 36.8926
r58 5 23 3.83544
r59 5 6 35.2529
r60 4 23 3.83544
r61 3 10 26.6446
r62 3 4 53.8017
.ends

.subckt PM_NAND3%A 4 6 10 12 14 17 23
c50 17 0 1.7284e-19
c51 14 0 9.46516e-20
c52 12 0 1.54476e-19
r53 20 23 4.21922
r54 17 20 25
r55 14 17 1.7
r56 6 12 36.8926
r57 5 23 3.83544
r58 5 6 35.2529
r59 4 23 3.83544
r60 3 10 26.6446
r61 3 4 53.8017
.ends

