* File: /home/eng/s/sxv240035/cad/gf65/tutorial/NAND4/HSPICE/NAND4.pex.sp.pex
* Created: Thu Dec  5 19:43:57 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND4%VSS 1 6 12 18
r37 6 18 10
r38 4 12 0.0199415
r39 4 6 0.988031
r40 1 12 30
.ends

.subckt PM_NAND4%OUT 3 9 10 13 19 23 26 27 28 29 32 35 37 39 41
c82 35 0 2.35996e-20
c83 32 0 6.18885e-20
c84 9 0 3.4286e-20
r85 32 35 1.7
r86 30 35 0.0515171
r87 29 35 0.110105
r88 26 30 0.0803212
r89 26 27 0.0874363
r90 23 41 10
r91 21 29 0.0803212
r92 21 23 0.682003
r93 20 28 0.0363272
r94 19 27 0.0479332
r95 19 20 0.444756
r96 16 39 30
r97 13 16 0.388606
r98 13 39 10
r99 11 28 0.00944082
r100 11 13 0.388606
r101 9 28 0.0363272
r102 9 10 1.35385
r103 6 37 30
r104 3 6 0.388606
r105 3 37 10
r106 1 10 0.0479332
r107 1 3 0.388606
.ends

.subckt PM_NAND4%VDD 1 6 12 16 22 26 35 37 41 44 45 47
c69 47 0 6.18885e-20
c70 26 0 2.35996e-20
r71 30 47 30
r72 26 30 0.388606
r73 26 47 10
r74 24 41 0.0185406
r75 24 30 1.40675
r76 23 37 0.0268516
r77 22 41 0.0268516
r78 22 23 0.735437
r79 20 45 30
r80 16 20 0.388606
r81 16 45 10
r82 14 37 0.0185406
r83 14 20 1.40675
r84 13 35 0.0268516
r85 12 37 0.0268516
r86 12 13 0.880192
r87 10 44 30
r88 6 10 0.388606
r89 6 44 10
r90 4 35 0.0185406
r91 4 10 1.40675
r92 1 37 10
.ends

.subckt PM_NAND4%D 4 6 10 12 14 17 23
c42 12 0 1.54476e-19
c43 6 0 2.67492e-19
r44 20 23 4.21922
r45 17 20 25
r46 14 17 1.7
r47 6 12 36.8926
r48 5 23 3.83544
r49 5 6 35.2529
r50 4 23 3.83544
r51 3 10 26.6446
r52 3 4 53.8017
.ends

.subckt PM_NAND4%C 4 6 10 12 14 17 23
c50 17 0 2.07126e-19
c51 14 0 9.46516e-20
c52 12 0 3.08952e-19
c53 6 0 2.67492e-19
r54 20 23 4.21922
r55 17 20 25
r56 14 17 1.7
r57 6 12 36.8926
r58 5 23 3.83544
r59 5 6 35.2529
r60 4 23 3.83544
r61 3 10 26.6446
r62 3 4 53.8017
.ends

.subckt PM_NAND4%B 4 6 10 12 14 17 23
c48 17 0 1.7284e-19
c49 14 0 9.46516e-20
c50 12 0 3.08952e-19
c51 6 0 2.67492e-19
r52 20 23 4.21922
r53 17 20 25
r54 14 17 1.7
r55 6 12 36.8926
r56 5 23 3.83544
r57 5 6 35.2529
r58 4 23 3.83544
r59 3 10 26.6446
r60 3 4 53.8017
.ends

.subckt PM_NAND4%A 4 6 10 12 14 17 23
c49 17 0 1.7284e-19
c50 14 0 9.46516e-20
c51 12 0 1.54476e-19
r52 20 23 4.21922
r53 17 20 25
r54 14 17 1.7
r55 6 12 36.8926
r56 5 23 3.83544
r57 5 6 35.2529
r58 4 23 3.83544
r59 3 10 26.6446
r60 3 4 53.8017
.ends

